US07015218B1
N-(3-Cyano-4-neopentyloxyphenyl)-N-[1-(4-fluorophenyl)pyrrol-2-ylcarbonyl]glycine ½ hydrate
N-[3-Cyano-4-neopentyloxyphenyl]-1-(4-fluorophenyl) pyrrole-2-carboxamide (4.0 g) and sodium hydride (60% content, 0.6 g) were reacted in dimethylformamide (40 ml) under ice-cooling for 1 h. Dimethylformamide solution (3 ml) containing ethyl bromoacetate (3.4g) was added and the mixture was stirred under ice-cooling for 1 h, and after allowed to warm to room temperature, stirred for another 1 h. The reaction mixture was added into water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. To the residue were added ethanol (40 ml) and then 10% aqueous sodium hydroxide solution (50 ml). The mixture was stirred at a refluxing temperature for 30 min. The solvent was evaporated under reduced pressure. Dilute hydrochloric acid was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. A mixed solvent of chloroform-n-hexane was added to the residue to allow crystallization. The crystals were recrystallized from hydrous ethanol to give the title compound (3.0 g), melting point: 140–143° C.

reactant | N-[3-Cyano-4-neopentyloxyphenyl]-1-(4-fluorophenyl) pyrrole-2-carboxamide | 4.0 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)NC(=O)C=1N(C=CC1)C1=CC=C(C=C1)F | C23H22FN3O2
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | ethyl bromoacetate | 3.4g | BrCC(=O)OCC | C4H7BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-(3-Cyano-4-neopentyloxyphenyl)-N-[1-(4-fluorophenyl)pyrrol-2-ylcarbonyl]glycine | 3.0 g | C(#N)C=1C=C(C=CC1OCC(C)(C)C)N(CC(=O)O)C(=O)C=1N(C=CC1)C1=CC=C(C=C1)F | C25H24FN3O4
